US06693123B2
A mixture of 4-methyl-2-phenylbenzoic acid (1.66 g, 7.82 mmol), prepared as in Example 227B, N-bromosuccinimide (1.40 g, 8.21 mmol) and 2,2′-azobisisobutyronitrile (25 mg) in carbon tetrachloride (30 mL) was stirred at reflux for 1 hour. The reaction mixture was poured into ethyl acetate and extracted with water (3×) and brine, dried, filtered, and concentrated in vacuo to give 4-bromomethyl-2-phenylbenzoic acid (2.26 g).

reactant | 4-methyl-2-phenylbenzoic acid | 7.82 mmol, 1.66 g | CC1=CC(=C(C(=O)O)C=C1)C1=CC=CC=C1 | C14H12O2
reactant | N-bromosuccinimide | 8.21 mmol, 1.40 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | carbon tetrachloride | 30 mL | C(Cl)(Cl)(Cl)Cl | CCl4
catalyst | 2,2′-azobisisobutyronitrile | 25 mg | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
product | 4-bromomethyl-2-phenylbenzoic acid | 2.26 g | BrCC1=CC(=C(C(=O)O)C=C1)C1=CC=CC=C1 | C14H11BrO2
